US07943795B2
A. [(6-{1-[4-(3,3-Dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carbonyl)methylamino]acetic acid ethyl ester
Dissolve 6-{1-[4-(3,3-dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carboxylic acid (0.10 g, 0.222 mmol), sarcosine ethyl ester HCl (0.069 g, 0.45 mmol), DMAP (0.108 g, 0.89 mmol) and EEDC (0.086 g, 0.45 mmol) in CH2CL2 (2 mL). Stir the mixture at RT for 16 h. Dilute the reaction mixture with CH2CL2 and water. Acidify to pH 1 using 1N HCl. Separate and discard the aqueous layer. Wash the organic layer with brine, dry over Na2SO4, and filter. Concentrate the filtrate and purify by silica gel radial chromatography (25:75 EtOAc:hex to 50:50 EtoAc:hex) to give the title compound as a white solid (0.093 g, 78%). MS (ES) m/e 546 (M+1).

reactant | 6-{1-[4-(3,3-dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carboxylic acid | 0.222 mmol, 0.10 g | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=C2C=CC(=CC2=CC1)C(=O)O)C)=O)(C)C | C29H34O4
reactant | sarcosine ethyl ester HCl | 0.45 mmol, 0.069 g | Cl.C(C)OC(CNC)=O
reactant | HCl | 1N | Cl | ClH
catalyst | DMAP | 0.89 mmol, 0.108 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | [(6-{1-[4-(3,3-Dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carbonyl)methylamino]acetic acid ethyl ester | 0.093 g, 78% | C(C)OC(CNCC(=O)C1=CC2=CC=C(C=C2C=C1)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)=O)C)=O | C34H43NO5
